US07179804B2
5-chloro-1-(3,5-dichloro-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester
Combine 1-(3,5-dichloro-benzyl)-5-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester (1 eq) with PCl5 (2 eq) in toluene and heat at 40–50° C. until reaction is complete. Concentrate the mixture, treat with aqueous NaHCO3, and extract with Et2O. Dry the combined extracts over Na2SO4, concentrate, and purify by chromatography on silica gel. MS (ES) 334.0, 336.0 (M+1)+.

reactant | 1-(3,5-dichloro-benzyl)-5-hydroxy-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 1 eq | C(C)OC(=O)C=1N=NN(C1O)CC1=CC(=CC(=C1)Cl)Cl | C12H11Cl2N3O3
reactant | PCl5 | 2 eq | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-1-(3,5-dichloro-benzyl)-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NN(C1Cl)CC1=CC(=CC(=C1)Cl)Cl | C12H10Cl3N3O2
